US05866560
20 g of 11β-fluoro-7α-(5-hydroxypentyl)-estr-4-ene-3,17-dione in 100 ml of pyridine can be reacted over a period of 2 hours with 50 ml of acetic anhydride at 25° C. Then, 5 ml of water is added at 0° C., and it is stirred for 45 minutes. It is extracted with diethyl ether, washed with 2N sulfric acid, pyridine-free, and the solution is neutralized in succession with saturated sodium bicarbonate solution and water. After drying and concentration by evaporation in a vacuum, the crude product is chromatographed on silica gel with a hexane-ethyl acetate-gradient. 17 g of 7α-(5-acetoxypentyl)-11β-fluoro-estr-4-ene-3,17-dione with a melting point of 78.4° C. is obtained.

reactant | 11β-fluoro-7α-(5-hydroxypentyl)-estr-4-ene-3,17-dione | 20 g | F[C@@H]1[C@@H]2[C@H]3CCC(C=C3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCO)=O | C23H33FO3
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 5 ml | O | H2O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 7α-(5-acetoxypentyl)-11β-fluoro-estr-4-ene-3,17-dione | 17 g | C(C)(=O)OCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2[C@H]2CCC(C=C2C1)=O)F)=O | C25H35FO4
